US07504411B2
To a solution of furnished 4-(4-Pyrrolidin-1-yl-phenyl)-piperidine-1-carboxylic acid tert-butyl ester in ethyl acetate (5 mL) was added 4 N hydrogen chloride in ethyl acetate (10 mL) at room temperature. After stirring for 3 h, solvent was removed in vacuo, and the resulting solid was purified by HPLC. Sodium hydroxide was added to the resulting fractions and the aqueous layer was extracted by dichloromethane. Organic layer was washed with brine, and passed through Cerite. Removal of the solvent under reduced pressure afforded 4-(4-pyrrolidin-1-yl-phenyl)-piperidine (1.01 g, 76%).

reactant | 4-(4-Pyrrolidin-1-yl-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)N1CCCC1 | C20H30N2O2
reactant | hydrogen chloride | 4 N | Cl | ClH
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 4-(4-pyrrolidin-1-yl-phenyl)-piperidine | 1.01 g, 76% | N1(CCCC1)C1=CC=C(C=C1)C1CCNCC1 | C15H22N2
